US07273879B2
Into 4 g of N,N-dimethylformamide were dissolved 304 mg of 5-chloro-3-methylthio-1,2,4-thiadiazole and 200 mg of 5-pyrimidylmethyl alcohol, 97 mg of sodium hydride (60% in oil) was added thereto under ice-cooling, and the reaction mixture was stirred for 30 minutes. After stirring for 5 hours at room temperature, the reaction mixture was added to saturated sodium chloride aqueous solution, and extracted with t-butyl methyl ether. The organic layer was concentrated, and the residue obtained was subjected to silica gel column chromatography to give 210 mg of 5-(5-pyrimidylmethyloxy)-3-methylthio-1,2,4-thiadiazole (hereinafter, referred to as the present compound (37)).

reactant | 5-chloro-3-methylthio-1,2,4-thiadiazole | 304 mg | ClC1=NC(=NS1)SC | C3H3ClN2S2
reactant | 5-pyrimidylmethyl alcohol | 200 mg | N1=CN=CC(=C1)CO | C5H6N2O
reactant | sodium hydride | 97 mg | [H-].[Na+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | N,N-dimethylformamide | 4 g | CN(C=O)C | C3H7NO
product | 5-(5-pyrimidylmethyloxy)-3-methylthio-1,2,4-thiadiazole | 210 mg | N1=CN=CC(=C1)COC1=NC(=NS1)SC | C8H8N4OS2
